US03974212
Step G: (1-Oxo-2-methyl-2-phenyl-6,7-dichloro-5-indanyloxy)acetic acid
A stirred mixture of 2-methyl-2-phenyl-5-hydroxy-6,7-dichloro-1-indanone (2.05 g., 0.0067 mole), potassium carbonate (1.85 g., 0.0134 mole) and ethyl bromoacetate (2.23 g., 0.0134 mole) in dimethylformamide (30 ml.) is warmed at 55°-60°C. for 3 hours, then treated with potassium hydroxide (0.97 g., 0.0147 mole) dissolved in a minimum amount of water in methanol (30 ml.) and heated on a steam bath for 21/2 hours. The reaction mixture is poured into water (500 ml.), acidified with 6 N hydrochloric acid and the precipitate collected after trituration with ether-petroleum ether and dried to give 1.31 g. of (1-oxo-2-methyl-2-phenyl-6,7-dichloro-5-indanyloxy)acetic acid which melts at 168°-169°C. on crystallization from acetic acid: water, 1:1.

reactant | 2-methyl-2-phenyl-5-hydroxy-6,7-dichloro-1-indanone | 0.0067 mole, 2.05 g | CC1(C(C2=C(C(=C(C=C2C1)O)Cl)Cl)=O)C1=CC=CC=C1 | C16H12Cl2O2
reactant | potassium carbonate | 0.0134 mole, 1.85 g | C([O-])([O-])=O.[K+].[K+]
reactant | ethyl bromoacetate | 0.0134 mole, 2.23 g | BrCC(=O)OCC | C4H7BrO2
reactant | potassium hydroxide | 0.0147 mole, 0.97 g | [OH-].[K+]
reactant | hydrochloric acid | 6 N | Cl | ClH
solvent | dimethylformamide | 30 ml | CN(C=O)C | C3H7NO
solvent | water | O | H2O
solvent | methanol | 30 ml | CO | CH4O
solvent | water | 500 ml | O | H2O
product | (1-Oxo-2-methyl-2-phenyl-6,7-dichloro-5-indanyloxy)acetic acid | O=C1C(CC2=CC(=C(C(=C12)Cl)Cl)OCC(=O)O)(C1=CC=CC=C1)C | C18H14Cl2O4
